US05665271
21.9 g (0.1 mol) of trans-4-bromomethyl-1-n-propyl-1-silacyclohexane was dropped in a mixture of 2.5 g (0.11 mols) of magnesium and 300 ml of THF to obtain a Grignard reagent. The resultant solution was then dropped in a solution, in 500 ml of THF, of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 40.1 g (0.1 mol) of 4-(trans-4-(3-bromopropyl)-4-silacyclohexyl) -2,6-difluoro-1-trifluormethylbenzene. The resultant product was subjected to ordinary aftertreatments to obtain trans-4-(4-(trans-4-(3,5-difluoro-4-trifluoromethylphenyl)-1-silacyclohexyl)butyl)-1 -n-propylcyclohexane, followed by isolation through chromatography to obtain 37.2 g (yield: 81%) of the intended trans isomer product.

reactant | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | 4-(trans-4-(3-bromopropyl)-4-silacyclohexyl) -2,6-difluoro-1-trifluormethylbenzene | 0.1 mol, 40.1 g | BrCCC[Si@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C(F)(F)F)F | C15H18BrF5Si
solvent | THF | 500 ml | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.1 g | [Cu]I
product | trans-4-(4-(trans-4-(3,5-difluoro-4-trifluoromethylphenyl)-1-silacyclohexyl)butyl)-1 -n-propylcyclohexane | yield: 81% | FC=1C=C(C=C(C1C(F)(F)F)F)[C@@H]1CC[Si@H](CC1)CCCC[C@@H]1CC[C@H](CC1)CCC | C25H37F5Si
